US05166204
7 ml of xylene was added to a mixture of 1.5 g of 2-[1-(2,4-dichlorophenyl)vinyl]indole and 1.0 g of N-phenylmaleimide. The resulting mixture was refluxed for 1 hour. The solvent was removed by distillation under reduced pressure. The residue was recrystallized from isopropyl alcohol to obtain 1.2 g (yield: 50%) of N-phenyl-1-(2,4-dichlorophenyl)-1,2,3,4-tetrahydro-carbazole-3,4-dicarboximide as colorless crystal.

reactant | 2-[1-(2,4-dichlorophenyl)vinyl]indole | 1.5 g | ClC1=C(C=CC(=C1)Cl)C(=C)C=1NC2=CC=CC=C2C1 | C16H11Cl2N
reactant | N-phenylmaleimide | 1.0 g | C1(=CC=CC=C1)N1C(C=CC1=O)=O | C10H7NO2
solvent | xylene | 7 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N-phenyl-1-(2,4-dichlorophenyl)-1,2,3,4-tetrahydro-carbazole-3,4-dicarboximide | 1.2 g, yield: 50% | C1(=CC=CC=C1)N1C(=O)C2CC(C=3NC4=CC=CC=C4C3C2C1=O)C1=C(C=C(C=C1)Cl)Cl | C26H18Cl2N2O2
